US04713474
A similar procedure to Example 1 is carried out by using 15.2 g of methyl p-hydroxybenzoate and 7.8 g of succinic dichloride to yield di(p-methyloxycarbonylphenyl)succinate, m.p. 189.5°-190° C., as white crystals.

reactant | methyl p-hydroxybenzoate | 15.2 g | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | succinic dichloride | 7.8 g | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
product | di(p-methyloxycarbonylphenyl)succinate | COC(=O)C1=CC=C(C=C1)OC(CCC(=O)OC1=CC=C(C=C1)C(=O)OC)=O | C20H18O8
